US06010981
A) 2-Chloro-6-methylthioaniline
A mixture of 36.0 g (196 mmol) of 2-amino-4-chlorobenzothiazole, 108 g (2.8 mmol) of sodium hydroxide, and 480 mL of water was heated at reflux with stirring for 4.5 hours. The resulting mixture was cooled and diluted with 180 mL of water. Six drops of tetrabutylammonium hydroxide were added and then 22.5 mL (235 mmol) of dimethyl sulfate dissolved in 50 mL of toluene was added dropwise over a 20-min period with stirring. The mixture was stirred another 30 min at ambient temperature. Ether was added and the phases were separated. The aqueous phase was extracted with ether. The combined organic phase and extract were treated with dimethylamine to destroy excess dimethyl sulfate, washed with water, dried, and concentrated by evaporation under reduced pressure. The residual liquid was distilled at 1 mm (millimeter) Hg (130 Pascals) pressure and the 18 g (53 percent of theory) colorless liquid fraction boiling at 100° C. was collected and shown to be the title compound.

reactant | 2-amino-4-chlorobenzothiazole | 196 mmol, 36.0 g | NC=1SC2=C(N1)C(=CC=C2)Cl | C7H5ClN2S
reactant | sodium hydroxide | 2.8 mmol, 108 g | [OH-].[Na+]
reactant | dimethyl sulfate | 235 mmol, 22.5 mL | S(=O)(=O)(OC)OC | C2H6O4S
reactant | Ether | CCOCC | C4H10O
solvent | water | 180 mL | O | H2O
catalyst | tetrabutylammonium hydroxide | Six drops | [OH-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | toluene | 50 mL | C1(=CC=CC=C1)C | C7H8
solvent | water | 480 mL | O | H2O
product | 2-Chloro-6-methylthioaniline | ClC1=C(N)C(=CC=C1)SC | C7H8ClNS
